US06642227B2
5-{5-[3-(3-Dimethylamino-propoxy)-phenylamino]-2-methyl-phenyl}-2-methylsulfanyl-4-pyridin-3-yl-thiophene-3-carbonitrile (VI-18)
To a solution of methanesulfonic acid 3-{3-[3-(4-cyano-5-methylsulfanyl-3-pyridin-3-yl-thiophene-2-yl)-4-methyl-phenylamino]-phenoxyl}-propyl ester (20 mg, 0.035 mmol) in DCM (1 mL) was added excess dimethylamine and excess triethylamine. The reaction was stirred at ambient temperature for 3 hours then water (2 ml) was added and the product extracted with DCM (3 mL×3). The combined organic layer were concentrated to afford the crude product as an oil. Purification by chromatography (2% MeOH—CH2Cl2) afforded the desired product (17 mg, 95%). 1H NMR (CDCl3): δ8.6(d, 1H), 8.5 (s, 1H), 8.1 (s, 1H), 7.7 (d, 1H), 7.4 -7.0 (m, 4H), 7.0(d, 1H), 6.5 (d, 1H), 4.1 (t, 2H), 2.9 (m, 2H), 2.7 (s, 3H), 2.6 (s, 6H), 2.1 (m, 2H), 1.6 (s, 3H).

reactant | methanesulfonic acid 3-{3-[3-(4-cyano-5-methylsulfanyl-3-pyridin-3-yl-thiophene-2-yl)-4-methyl-phenylamino]-phenoxyl}-propyl ester | 0.035 mmol, 20 mg | C(#N)C=1C(=C(SC1SC)C=1C=C(C=CC1C)NC=1C=C(OCCCOS(=O)(=O)C)C=CC1)C=1C=NC=CC1 | C28H27N3O4S3
reactant | dimethylamine | CNC | C2H7N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | 2 ml | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-{5-[3-(3-Dimethylamino-propoxy)-phenylamino]-2-methyl-phenyl}-2-methylsulfanyl-4-pyridin-3-yl-thiophene-3-carbonitrile | 17 mg, 95% | CN(CCCOC=1C=C(C=CC1)NC=1C=CC(=C(C1)C1=C(C(=C(S1)SC)C#N)C=1C=NC=CC1)C)C | C29H30N4OS2
